US08445509B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)pyridin-2-yl]-6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide
To a solution of N-{6-[(6-aminopyridin-3-yl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide (200 mg, 0.647 mmol) and 6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid (178 mg, 0.776 mmol) in N,N-dimethylformamide (3 mL) were added N,N-diisopropylethylamine (233 μL, 1.29 mmol) and HATU (320 mg, 0.841 mmol), and the mixture was stirred at room temperature for 6 hr. Ethyl acetate, tetrahydrofuran and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was washed with ethyl acetate and collected by filtration. The obtained white solid was suspended in methyl ethyl ketone (2 mL), and the mixture was stirred at 80° C. for 17 hr. The suspension was collected by filtration to give the title compound (175 mg, 52%) as a white solid.

reactant | N-{6-[(6-aminopyridin-3-yl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 0.647 mmol, 200 mg | NC1=CC=C(C=N1)OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2 | C16H15N5O2
reactant | 6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid | 0.776 mmol, 178 mg | CC1=CC=C(C(N1C1=CC=CC=C1)=O)C(=O)O | C13H11NO3
reactant | N,N-diisopropylethylamine | 1.29 mmol, 233 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.841 mmol, 320 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)pyridin-2-yl]-6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide | 175 mg, 52% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=CC(=NC2)NC(=O)C=2C(N(C(=CC2)C)C2=CC=CC=C2)=O)C1 | C29H24N6O4
